US08053461B2
4 g (15.8 mmol) of the thus obtained ethyl 4-(carboxymethyl)-3-nitrobenzoate and 0.45 g of 10% palladium-carbon were suspended in 15 mL of acetic acid, and the resulting mixture was stirred at room temperature in a hydrogen gas atmosphere for 23 hours. After completion of the reaction, water was added to the reaction mixture and the mixture was filtered to remove insoluble matter, and the filtrate was subjected to extraction with chloroform. The obtained chloroform layer was evaporated to dryness under reduced pressure, and water was added to the residue. Precipitated ethyl 2-oxoindoline-6-carboxylate was then obtained by filtration.

reactant | ethyl 4-(carboxymethyl)-3-nitrobenzoate | C(=O)(O)CC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C11H11NO6
reactant | hydrogen | [H][H] | H2
reactant | water | O | H2O
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
catalyst | palladium-carbon | 0.45 g | [C].[Pd]
product | ethyl 2-oxoindoline-6-carboxylate | O=C1NC2=CC(=CC=C2C1)C(=O)OCC | C11H11NO3
